US09062028B2
Step D. (5-Bromo-3,4-dihydroquinolin-1(2H)-yl)(1-((3-chloro-2-methylphenoxy)methyl)cyclopropyl)methanone
The title compound was prepared using a procedure analogous to ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate except that ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate was replaced with (5-bromo-3,4-dihydroquinolin-1(2H)-yl)(1-(hydroxymethyl)cyclopropyl)methanone and 2,4,5-trichlorophenol was replaced with 3-chloro-2-methylphenol. LCMS, [M+H]+=436.1. 1H NMR (400 MHz, CDCl3) δ 7.54 (d, J=8.2 Hz, 1H), 7.33 (d, J=7.9 Hz, 1H), 7.04-6.90 (m, 3H), 6.49 (d, J=7.8 Hz, 1H), 3.92-3.82 (m, 4H), 2.65 (t, J=6.9 Hz, 2H), 2.26 (s, 3H), 1.96-1.87 (m, 2H), 1.21 (dd, J=6.9, 4.9 Hz, 2H), 0.94 (q, J=5.0 Hz, 2H).

reactant | ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | ClC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC(=O)OCC)C=C(C(=C1)Cl)Cl | C26H26Cl3N3O4
reactant | ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=NN(C1)CC(=O)OCC | C20H25N3O4
reactant | (5-bromo-3,4-dihydroquinolin-1(2H)-yl)(1-(hydroxymethyl)cyclopropyl)methanone | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)CO | C14H16BrNO2
reactant | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | 3-chloro-2-methylphenol | ClC=1C(=C(C=CC1)O)C | C7H7ClO
product | (5-Bromo-3,4-dihydroquinolin-1(2H)-yl)(1-((3-chloro-2-methylphenoxy)methyl)cyclopropyl)methanone | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)COC1=C(C(=CC=C1)Cl)C | C21H21BrClNO2
